US07759387B2
(2-Chloro-phenoxy)-acetic acid ethyl ester
The title compound was prepared by reacting 2-chloro-phenol, with ethyl 2-bromoacetate and K2CO3 in DMF. Yield, 97%, colourless oil; 1H NMR (CDCl3): 1.29 (3H, t, J=6.3, CH2CH3), 4.29 (2H, q, J=6.3, CH2CH3), 4.72 (2H, s, OCH2), 6.76 (1H, d, J=8.2, H-6), 6.95 (1H, m, H-4), 7.20 (1H, m, H-5), 7.40 (1H, dd, J=8.2, H-3).

reactant | 2-chloro-phenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | ethyl 2-bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (2-Chloro-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)Cl)=O | C10H11ClO3
